US06498165B1
Step A: 5,6-Dichlorobenzimidazole
A solution of 200 mg of 1,2-diamino-4,5-dichlorobenzene dissolved in 5 mL of 97% formic acid was heated to 100° C. in a sealed tube for 15 hours. After cooling to room temperature, the reaction was quenched by the addition of 3.3 mL of concentrated aqueous NH4OH and stirred for 30 minutes. Following dilution with 20 mL of H2O, and extraction with 2×20 mL EtOAc, the organic phases were dried over MgSO4 and concentrated under reduced pressure to yield 210 mg of the title compound as a brown oil. No further purification was performed. RF: 0.38 (5% MeOH in CH2Cl2). 1H NMR (500 MHz, CD3OD): δ 8.22 (s, 1H), 7.74 (s, 2H). Mass Spectrum (ESI) 188 (M+1).

reactant | 1,2-diamino-4,5-dichlorobenzene | 200 mg | NC1=C(C=C(C(=C1)Cl)Cl)N | C6H6Cl2N2
reactant | formic acid | 5 mL | C(=O)O | CH2O2
product | 5,6-Dichlorobenzimidazole | 210 mg | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
